US06841652B2
Preparation of [2,5-bis(3,4-dicyanophenoxy)phenyl]diphenylphosphine oxide
Into a 250 mL three neck round bottomed flask equipped with a mechanical stirrer, nitrogen gas inlet, and drying tube was place 4-nitrophthalonitrile (9.9 g, 0.0572 mol), 2,5-dihydroxyphenyldiphenylphosphine oxide (8.87 g, 0.0286 mol), and N,N-dimethylformamide (DMAc, 100 mL). The mixture was stirred for 15 minutes at room temperature and then pulverized anhydrous potassium carbonate (9.89 g, 0.0715 mol, 2.5 eq.) was added. The reaction mixture was stirred at room temperature for 24 hours. The reddish-brown reaction mixture was poured into ˜700 mL of stirred water and the resulting off-white precipitate was collected and washed with water. The solid was stirred in 100 mL of methanol for 10 minutes and was collected and dried for 2 hours in a vacuum oven at 100° C.

reactant | 4-nitrophthalonitrile | 0.0572 mol, 9.9 g | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
reactant | 2,5-dihydroxyphenyldiphenylphosphine oxide | 0.0286 mol, 8.87 g | OC1=C(C=C(C=C1)O)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15O3P
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.0715 mol, 9.89 g, 2.5 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | water | ˜700 mL | O | H2O
product | [2,5-bis(3,4-dicyanophenoxy)phenyl]diphenylphosphine oxide | C(#N)C=1C=C(OC2=C(C=C(C=C2)OC2=CC(=C(C=C2)C#N)C#N)P(C2=CC=CC=C2)(C2=CC=CC=C2)=O)C=CC1C#N | C34H19N4O3P
